US06919356B2
Part C: Preparation of trans-1-[2-(4-fluorophenyl)-ethyl]-4-ethylpiperidin-3-ylmethylamine
1-[2-(4-Fluorophenyl)ethyl]-4-ethyl-2,6-dioxopiperidine-3-carbonitrile (1.0 g, 3.47 mmol) was treated with 1.0 M borane in tetrahydrofuran (69.4 mL, 69.4 mmol) and stirred at room temperature for 65 hours. The solution was cooled on an ice bath and treated very slowly with 2.0 N hydrochloric acid. The mixture was concentrated under vacuum to remove the tetrahydrofuran, and the aqueous residue was heated at reflux for 60 minutes. The mixture was cooled to room temperature and treated with 50% aqueous sodium hydroxide to adjust the pH to about 11. The mixture was extracted with ethyl acetate, and the organic extracts were dried over sodium sulfate and concentrated. The residue was purified by flash chromatography, eluting with 5% methanol in dichloromethane containing 0.5% aqueous ammonia, to provide an oil (340 mg, 37%). 1H NMR (300 MHz, CDCl3) δ7.16 (m, 2H), 6.97 (t, J=9 Hz, 2H), 3.13 (m, 1H), 3.00 (m, 1H), 2.92 (dd, J=13, 3 Hz, 1H), 2.83 (m, 2H), 2.58 (m, 2H), 1.99 (td, J=12, 3 Hz, 1H), 1.9-1.0 (m, 8H), 0.90 (t, J=7 Hz, 3H). Mass spec (ES+) m/z 265.4 (M+H+, 100%).

reactant | 1-[2-(4-Fluorophenyl)ethyl]-4-ethyl-2,6-dioxopiperidine-3-carbonitrile | 3.47 mmol, 1.0 g | FC1=CC=C(C=C1)CCN1C(C(C(CC1=O)CC)C#N)=O | C16H17FN2O2
reactant | borane | 1.0 M | B | BH3
reactant | tetrahydrofuran | 69.4 mmol, 69.4 mL | O1CCCC1 | C4H8O
reactant | hydrochloric acid | 2.0 N | Cl | ClH
product | trans-1-[2-(4-fluorophenyl)-ethyl]-4-ethylpiperidin-3-ylmethylamine | 340 mg, 37% | FC1=CC=C(C=C1)CCN1C[C@H]([C@@H](CC1)CC)CN | C16H25FN2
